US06331538B1
2-Amino-N-allyloxy-4,5-difluoro-benzamide
Carbonyldiimidazole (3.37 g, 20 mmol) was added to a suspension of 4,5-difluoroanthranilic acid (3.0 g, 17 mmol) in 80 mL of THF, and the mixture was heated to reflux for 2 hours. The solution was cooled and O-allylhydroxylamine hydrochloride (1.89 g, 17 mmol) and triethylamine (2.8 mL, 20 mmol) were added, and the mixture was heated to reflux for 17 hours. The reaction mixture was concentrated and washed with 1N HCl, saturated NaHCO3, and brine and dried over magnesium sulfate. The solution was concentrated and purified by column chromatography (silica gel, CHCl3/MeOH, 98:2) to give 2.08 g of the title compound as a solid.

reactant | Carbonyldiimidazole | 20 mmol, 3.37 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4,5-difluoroanthranilic acid | 17 mmol, 3.0 g | FC=1C=C(C(C(=O)O)=CC1F)N | C7H5F2NO2
reactant | O-allylhydroxylamine hydrochloride | 17 mmol, 1.89 g | Cl.C(C=C)ON
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-Amino-N-allyloxy-4,5-difluoro-benzamide | 2.08 g | NC1=C(C(=O)NOCC=C)C=C(C(=C1)F)F | C10H10F2N2O2
